US06211199B1
103.5 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3-fluorophenylmethyl)-2-oxopyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzyl)-3-(3-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(3-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCOS(=O)(=O)C)CC2=CC(=CC=C2)F)=O)C=C(C1OC)OC | C24H30FNO7S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-(3,4,5-trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3-fluorophenylmethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CC2=CC(=CC=C2)F)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)=O)C=C(C1OC)OC | C39H50FN5O5
